US09447114B2
To a solution of 5-(4-chlorobenzyl)-6-(3-chlorophenyl)-3-(3-(tetrahydro-2H-pyran-2-yloxy) propyl)-1-((2-(trimethylsilyl)ethoxy)methyl)furo[2,3-d]pyrimidine-2,4(1H,3H)-dione (20 mg, 0.03 mmol) in DCM (0.8 mL) was added in TFA (0.8 mL). The reaction was stirred at RT for 2 h then diluted with DCM (5 mL) and water (2 mL). The organic layer was dried over Na2SO4 and concentrated to a residue which was purified by Prep HPLC to give 5-(4-chlorobenzyl)-6-(3-chlorophenyl)-3-(3-hydroxypropyl)furo[2,3-d]pyrimidine-2,4(1H,3H)-dione (3 mg, 23% yield) as an oil. 1H NMR (DMSO-d6) δ: 7.43 (d, J=3.4 Hz, 3H), 7.34 (d, J=8.4 Hz, 3H), 7.26 (d, J=8.4 Hz, 2H), 4.53 (s, 1H), 4.28 (s, 2H), 3.85 (t, J=7.1 Hz, 2H), 3.40 (s, 2H), 1.71-1.58 (m, 2H). LCMS: MH+ 445 and TR=2.803 min.

reactant | 5-(4-chlorobenzyl)-6-(3-chlorophenyl)-3-(3-(tetrahydro-2H-pyran-2-yloxy) propyl)-1-((2-(trimethylsilyl)ethoxy)methyl)furo[2,3-d]pyrimidine-2,4(1H,3H)-dione | 0.03 mmol, 20 mg | ClC1=CC=C(CC2=C(OC=3N(C(N(C(C32)=O)CCCOC3OCCCC3)=O)COCC[Si](C)(C)C)C3=CC(=CC=C3)Cl)C=C1 | C33H40Cl2N2O6Si
solvent | DCM | 0.8 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 0.8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | water | 2 mL | O | H2O
product | 5-(4-chlorobenzyl)-6-(3-chlorophenyl)-3-(3-hydroxypropyl)furo[2,3-d]pyrimidine-2,4(1H,3H)-dione | 3 mg, 23% yield | ClC1=CC=C(CC2=C(OC=3NC(N(C(C32)=O)CCCO)=O)C3=CC(=CC=C3)Cl)C=C1 | C22H18Cl2N2O4
